US05338726
[1-Amino-3-methybutyl(methoxy)phosphinyl]acetic acid tert-Butyl ester
[1-(Benzyloxycarbonyl)amino-3-methybutyl(methoxy)phosphinyl]acetic acid tert-butyl ester, prepared by the literature procedure: Bartlett, P. A.; Kezer, W. B.; J. Am. Chem. Soc. , 106, 4282 (1984), (357 mg, 0.86 mmol) was dissolved in MeOH (11 mL) and hydrogenolyzed under H2 using 10% Pd/C (84 mg) for approximately one hour. The catalyst was removed by filtration and the solvent removed under reduced pressure to give the title product as an oil (230 mg, 100%). The 300 MHz 1H NMR spectrum was found to be consistent with the proposed structure.

reactant | [1-(Benzyloxycarbonyl)amino-3-methybutyl(methoxy)phosphinyl]acetic acid tert-butyl ester | C(C)(C)(C)OC(CP(=O)(OC)C(CC(C)C)NC(=O)OCC1=CC=CC=C1)=O | C20H32NO6P
solvent | MeOH | 11 mL | CO | CH4O
product | [1-Amino-3-methybutyl(methoxy)phosphinyl]acetic acid tert-Butyl ester | 230 mg, 100% | C(C)(C)(C)OC(CP(=O)(OC)C(CC(C)C)N)=O | C12H26NO4P
